US09403812B2
N′-[(E)-3-[4-(2-chloro-4-trifluoromethoxyphenyl)-5-(5-methylsulfonyl-2-pyridyl)-1,2,4-triazol-3-yl]prop-2-enoyl]-2-methoxy-pyridine-4-carbohydrazide was dissolved into dichloromethane (10 mL), and triphenylphosphine (0.19 g, 0.736 mmol), carbon tetrabromide (0.24 g, 0.736 mmol) and triethylamine (0.18 mL, 1.30 mmol) was added. The reaction mixture was kept at ambient temperature for 2 h. The final compound was purified by column chromatography (eluting with hexane and ethyl acetate 1:3) to give 2-(4-(2-chloro-4-trifluoromethoxyphenyl)-5-((E)-2-(5-(2-methoxypyridin-4-yl)-1,3,4-oxadiazol-2-yl)vinyl)-4H-1,2,4-triazol-3-yl)-5-(methylsulfonyl)pyridine as a yellow solid. Yield: 0.07 g, 30%.

reactant | N′-[(E)-3-[4-(2-chloro-4-trifluoromethoxyphenyl)-5-(5-methylsulfonyl-2-pyridyl)-1,2,4-triazol-3-yl]prop-2-enoyl]-2-methoxy-pyridine-4-carbohydrazide | ClC1=C(C=CC(=C1)OC(F)(F)F)N1C(=NN=C1C1=NC=C(C=C1)S(=O)(=O)C)/C=C/C(=O)NNC(=O)C1=CC(=NC=C1)OC | C25H19ClF3N7O6S
reactant | triphenylphosphine | 0.736 mmol, 0.19 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.736 mmol, 0.24 g | C(Br)(Br)(Br)Br | CBr4
reactant | triethylamine | 1.30 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-(2-chloro-4-trifluoromethoxyphenyl)-5-((E)-2-(5-(2-methoxypyridin-4-yl)-1,3,4-oxadiazol-2-yl)vinyl)-4H-1,2,4-triazol-3-yl)-5-(methylsulfonyl)pyridine | ClC1=C(C=CC(=C1)OC(F)(F)F)N1C(=NN=C1\C=C\C=1OC(=NN1)C1=CC(=NC=C1)OC)C1=NC=C(C=C1)S(=O)(=O)C | C25H17ClF3N7O5S
